US06235680B1
2b. N-[4-(2-Methoxybenzoylsulfamoyl)phenyl]-2,4-dichlorobenzamide
5 g (15 mmol) of N-(4-sulfamoylphenyl)-2,4-dichlorobenzamide are introduced into 80 ml of acetonitrile at 0° C., and 2.93 g (30 mmol) of triethylamine and a catalytic amount of DMAP (4-dimethylaminopyridine) are added. 2.47 g (15 mmol) of o-anisoyl chloride—dissolved in 20 ml of acetonitrile—are subsequently added dropwise. After a further 2 hours at room temperature, the mixture is transferred into water and the precipitate is filtered off with suction; Yield: 4.2 g (60%); M.p.: 140-146° C.

reactant | N-(4-sulfamoylphenyl)-2,4-dichlorobenzamide | 15 mmol, 5 g | S(N)(=O)(=O)C1=CC=C(C=C1)NC(C1=C(C=C(C=C1)Cl)Cl)=O | C13H10Cl2N2O3S
reactant | triethylamine | 30 mmol, 2.93 g | C(C)N(CC)CC | C6H15N
reactant | o-anisoyl chloride | 15 mmol, 2.47 g | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
reactant | water | O | H2O
catalyst | DMAP | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | N-[4-(2-Methoxybenzoylsulfamoyl)phenyl]-2,4-dichlorobenzamide | COC1=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)NC(C2=C(C=C(C=C2)Cl)Cl)=O)C=CC=C1 | C21H16Cl2N2O5S
